US07964691B2
There were put 15.2 g of 4,4-bis(hydroxymethyl)-1,6-heptadiene prepared above, 42.5 mL of trimethyl orthoformate manufactured by Tokyo Chemical Industry Co., Ltd., and 97 mL of dry acetone manufactured by Kanto Chemical Co., Inc. in a 200 mL round-bottom flask. To the resultant mixture, a few drops of concentrated sulfuric acid were added gradually, and the mixture was refluxed for 4 hours. The reaction mixture was extracted with ether, and the extract was washed with saturated aqueous sodium bicarbonate, and was further washed with a saturated sodium chloride solution. The washed extract was dried over anhydrous magnesium sulfate manufactured by Nacalai Tesque, Inc. The dried ether solution was subjected to evaporation to remove ether contained therein. The obtained liquid was distilled in vacuo, thereby obtaining 16.2 g of 5,5-diallyl-2,2-dimethyl-1,3-dioxane as a colorless and oily fraction at 45° C. under a pressure of 4 mmHg.

reactant | 4,4-bis(hydroxymethyl)-1,6-heptadiene | 15.2 g | OCC(CC=C)(CC=C)CO | C9H16O2
reactant | trimethyl orthoformate | 42.5 mL | C(OC)(OC)OC | C4H10O3
reactant | acetone | 97 mL | CC(=O)C | C3H6O
catalyst | sulfuric acid | a few drops | S(O)(O)(=O)=O | H2O4S
product | 5,5-diallyl-2,2-dimethyl-1,3-dioxane | 16.2 g | C(C=C)C1(COC(OC1)(C)C)CC=C | C12H20O2
